US08975400B2
7-chloro-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
To a mixture of N-(2-bromoethyl)-2,6-dichloropyrimidin-4-amine (10 g, 18 mmol) in 1,4-dioxane (30 mL) and water (30.0 mL) was added K2CO3 (4.85 g, 35.1 mmol). The reaction mixture was stirred at 70° C. for 4 h, and then directly used into next step without further purification.

reactant | N-(2-bromoethyl)-2,6-dichloropyrimidin-4-amine | 18 mmol, 10 g | BrCCNC1=NC(=NC(=C1)Cl)Cl | C6H6BrCl2N3
reactant | K2CO3 | 35.1 mmol, 4.85 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 30.0 mL | O | H2O
product | 7-chloro-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C2N(C(N1)=O)CCN2 | C6H6ClN3O
